US05371093
[Benzo[b]thiophene-3-yl][1-(2-phenylethyl)-4-piperidinyl]methanone
Dissolve oxalyl chloride (4.22 g, 33.28 mmol) in methylene chloride (200 mL), place under an argon atmosphere and cool to -78° C. Add, by dropwise addition, dimethylsulfoxide (5.42 g, 69.33 mmol) and stir at -78° C. for 15 minutes. Add, by dropwise addition, a solution of α-[1-(2-phenylethyl)-4-piperidinyl]-3-benzo[b]thiophenemethanol (9.75 g, 27.73 mmol) in dimethylsulfoxide (150 mL). Stir at -78° C. for 30 minutes, add triethylamine (15.18 g, 0.150 mol) and stir at -78° C. for 1 hour. Remove the ice bath and stir for an additional 1.5 hours. Evaporate the solvent in vacuo and recrystallize (isopropanol) to give the title compound as a tan powder; mp 110°-112° C.

reactant | oxalyl chloride | 33.28 mmol, 4.22 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | α-[1-(2-phenylethyl)-4-piperidinyl]-3-benzo[b]thiophenemethanol | 27.73 mmol, 9.75 g | C1(=CC=CC=C1)CCN1CCC(CC1)C(O)C=1C2=C(SC1)C=CC=C2 | C22H25NOS
reactant | triethylamine | 0.150 mol, 15.18 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | dimethylsulfoxide | 150 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 69.33 mmol, 5.42 g | CS(=O)C | C2H6OS
product | [Benzo[b]thiophene-3-yl][1-(2-phenylethyl)-4-piperidinyl]methanone | S1C2=C(C(=C1)C(=O)C1CCN(CC1)CCC1=CC=CC=C1)C=CC=C2 | C22H23NOS
